US07163958B2
40b. 2-Hydroxyethyl(2S)-2-(6-methoxy(2-naphthyl))-propanoate
A solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid sodium salt (10.9 g, 43.2 mmol) and 2-bromoethanol (27.11 g, 0.22 mol) in DMF (150 mL) was heated to 80° C. for 3.5 hours. The excess 2-bromoethanol and DMF were evaporated under vacuum at 60° C. The resulted crude material was dissolved in CH2Cl2 (400 mL) and washed with water (400 mL), saturated NaHCO3 (100 mL), 3N HCl (100 mL), brine and dried over Na2SO4, filtered and concentrated. Trituration of the residue with ether/hexane gave the title compound as a white solid (9.97 g, 84% yield). m.p. 72–73° C. 1H NMR (300 MHz, CDCl3) δ 8.0–7.68 (m, 3H), 7.66–7.61 (m, 1H), 7.16–7.1 (m, 2H), 4.25–4.15 (m, 2H), 3.93 (s, 3H), 3.92 (q, J=7.2 Hz, 1H), 3.75–3.70 (m, 2H), 1.78 (br. t, 1H), 1.59 (d, J=7.2 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 174.7, 157.3, 135.2, 133.4, 129.9, 128.6, 126.9, 125.8, 125.6, 118.6, 105.3, 65.9, 60.3, 54.8, 45.0, 18.2. MS(API) m/z 275 (M+NH4)+.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid sodium salt | 43.2 mmol, 10.9 g | [Na+].COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)[O-])C
reactant | 2-bromoethanol | 0.22 mol, 27.11 g | BrCCO | C2H5BrO
reactant | ether hexane | CCOCC.CCCCCC
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxyethyl(2S)-2-(6-methoxy(2-naphthyl))-propanoate | 9.97 g, 84% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCCO)C | C16H18O4
